US04481360
Using the method of Example 1, Part A of U.S. Pat. No. 4,338,453, 2,6-dimethylphenyl isothiocyanate and acethydrazide are reacted to produce 4-(2,6-dimethylphenyl)-5-methyl-4H-1,2,4-triazole-3-thiol which is converted to 4-(2,6-dimethylphenyl)-3-methyl-4H-1,2,4-triazole. This triazole (1.87 g 0.01 mole) in 100 ml of tetrahydrofuran at -60° C. bath temperature is reacted with 6.9 ml of 1.6N n-butyllithium in hexane. The resulting mixture is stirred for fifteen minutes. Then using the procedure of Example 1, Part A above, this anion is reacted with 1-(β-phenethyl)-4-piperidinone to produce the product, which is recrystallized from ethyl acetate-hexane to give the subtitled product, mp 189°-192° C., with a C:H:N ratio of 73.30:7.77:14.27.

reactant | 2,6-dimethylphenyl isothiocyanate | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | acethydrazide | C(C)(=O)NN | C2H6N2O
product | 4-(2,6-dimethylphenyl)-5-methyl-4H-1,2,4-triazole-3-thiol | CC1=C(C(=CC=C1)C)N1C(=NN=C1C)S | C11H13N3S
